US05104503
6,7-bis(difluoromethyl)perfluorododecane
A stream of hydrogen (30 ml/min) saturated with perfluoro-1-heptene was passed into the photoreactor and photolyzed for 25 hours. 5.7 g of crude product consisted of a mixture of dimers (GC-MS) whose major component (55%) was the title compound, which shows the characteristic CF2H-CFRR' moiety by 1H-NMR (in d6 -acetone: 6.30 8;J1H-F =51.5 Hz, J2H-F =4.5 Hz).

reactant | hydrogen | [H][H] | H2
reactant | perfluoro-1-heptene | FC(=C(C(C(C(C(C(F)(F)F)(F)F)(F)F)(F)F)(F)F)F)F | C7F14
product | 6,7-bis(difluoromethyl)perfluorododecane | FC(C(C(C(C(C(C(F)(F)F)(F)F)(F)F)(F)F)(F)F)(C(C(C(C(C(C(F)(F)F)(F)F)(F)F)(F)F)(F)F)(C(F)F)F)F)F | C14H2F28
